US04554287
A mixture of 1.83 g (0.00629 m) of 4-methoxy-7-[2-(N,N-di-n-propylamino)ethyl]-1,3-benzimidazol-2-one in 100 ml of methylene chloride was cooled to -30° while 17.5 ml of 1M boron tribromide in methylene chloride was added dropwise. After standing at room temperature for 4 hours, the mixture yielded an oil which solidified. The residue was triturated with methanol, then recrystallized from isopropanol to give 1.94 g (86%) of 4-hydroxy-7-[2-(N,N-di-n-propylamino)ethyl]-1,3-benzimidazol-2-one hydrobromide; 240°-242°.

reactant | 4-methoxy-7-[2-(N,N-di-n-propylamino)ethyl]-1,3-benzimidazol-2-one | 1.83 g | COC1=CC=C(C2=NC(N=C21)=O)CCN(CCC)CCC | C16H23N3O2
reactant | boron tribromide | 1M, 17.5 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-7-[2-(N,N-di-n-propylamino)ethyl]-1,3-benzimidazol-2-one hydrobromide | 1.94 g, 86% | Br.OC1=CC=C(C2=NC(N=C21)=O)CCN(CCC)CCC | InChI=1S/C15H21N3O2.BrH/c1-3-8-18(9-4-2)10-7-11-5-6-12(19)14-13(11)16-15(20)17-14;/h5-6,19H,3-4,7-10H2,1-2H3;1H
